US08022218B2
(a). 2-(2-Bromo-6-ethoxy-4-formyl-phenoxymethyl)-furan-3-carboxylic acid methyl ester
Alkylation of 3-bromo-5-ethoxy-4-hydroxy benzaldehyde (123 mg) with 2-bromomethyl-furan-3-carboxylic acid methyl ester (109 mg) was performed according to the method described in example 1a. Yield: 191 mg. MS-ESI: [M+H]+=383/385

reactant | 3-bromo-5-ethoxy-4-hydroxy benzaldehyde | 123 mg | BrC=1C=C(C=O)C=C(C1O)OCC | C9H9BrO3
reactant | 2-bromomethyl-furan-3-carboxylic acid methyl ester | 109 mg | COC(=O)C1=C(OC=C1)CBr | C7H7BrO3
product | 2-(2-Bromo-6-ethoxy-4-formyl-phenoxymethyl)-furan-3-carboxylic acid methyl ester | COC(=O)C1=C(OC=C1)COC1=C(C=C(C=C1OCC)C=O)Br | C16H15BrO6
